US04166115
Pyridine (3 g.) was added to a solution of ethyl 2-methoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetate (syn isomer) (6.5 g.) in a mixture of ethyl acetate (60 ml.) and dimethylformamide (20 ml.). To the solution was dropwise added with stirring at 4° C. ethyl chloroformate (8 g.). After adding water (50 ml.) to the reaction mixture, the organic layer was separated, washed with water and then with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was subjected to column chromatography on silica gel (120 g.) using a mixture of ether and petroleum ether (5:2) as an eluent to give ethyl 2-methoxyimino-2-(2-ethoxycarbonylamino-1,3-thiazol-4-yl)acetate (syn isomer) (5.4 g.).

reactant | Pyridine | 3 g | N1=CC=CC=C1 | C5H5N
reactant | ethyl 2-methoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetate | 6.5 g | CON=C(C(=O)OCC)C=1N=C(SC1)N | C8H11N3O3S
reactant | ethyl chloroformate | 8 g | ClC(=O)OCC | C3H5ClO2
reactant | water | 50 ml | O | H2O
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl 2-methoxyimino-2-(2-ethoxycarbonylamino-1,3-thiazol-4-yl)acetate | 5.4 g | CON=C(C(=O)OCC)C=1N=C(SC1)NC(=O)OCC | C11H15N3O5S
